US08748624B2
STEP A: ethyl 3-(5-(2-(((4-bromophenyl)amino)methyl)-4-methoxyphenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (446 mg, 2.1 mmol) was added to a DCE solution (7 mL) of ethyl 3-(5-(2-formyl-4-methoxyphenyl)picolinamido)propanoate, prepared as in Example 58 (500 mg, 1.4 mmol), 4-bromoaniline (362 mg, 2.1 mmol), and AcOH (0.08 mL, 1.4 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 2.1 mmol, 446 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(2-formyl-4-methoxyphenyl)picolinamido)propanoate | C(=O)C1=C(C=CC(=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C19H20N2O5
reactant | 4-bromoaniline | 2.1 mmol, 362 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | AcOH | 1.4 mmol, 0.08 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 7 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(2-(((4-bromophenyl)amino)methyl)-4-methoxyphenyl)picolinamido)propanoate | BrC1=CC=C(C=C1)NCC1=C(C=CC(=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C25H26BrN3O4
